US05705579
Bis(2-(para-methylphenyl) tetrahydroindenyl zirconium dichloride
In this case the procedure of Example I was used except 0.476 mmol of 2-(para-methylphenyl) tetrahydroindenyl, 0.52 mmol of butyllithium, and 0.242 of zirconium tetrachloride, and 4 ml of diethylether were employed. The solid was identified as bis(2-para-methylphenyl) tetrahydroindenyl zirconium dichloride.

reactant | butyllithium | 0.52 mmol | C(CCC)[Li]
reactant | zirconium tetrachloride | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | diethylether | 4 ml | C(C)OCC | C4H10O
product | 2-(para-methylphenyl) tetrahydroindenyl zirconium dichloride | [Cl-].[Cl-].CC1=CC=C(C=C1)C1C(C2=CC=CCC2C1)[Zr+2] | InChI=1S/C16H17.2ClH.Zr/c1-12-6-8-13(9-7-12)16-10-14-4-2-3-5-15(14)11-16;;;/h2-4,6-10,15-16H,5,11H2,1H3;2*1H;/q;;;+2/p-2
